US07414148B2
A 200 mL, three-necked flask was charged with 4.76 g (31.8 mmol, 1.11 equivalents) of 1-adamantane methanol and 55 g of diethyl ether, followed by stirring to obtain a suspension. Then, 6.15 g (28.6 mmol, 1.0 equivalent) of bromodifluoroacetic chloride were added thereto. The resulting suspension was cooled down to 0° C. by using an iced bath, followed by adding 5.78 g (57.2 mmol, 2.0 equivalents) of triethylamine in a slow dropwise manner. This reaction liquid was allowed to stand with stirring to reach room temperature, followed by stirring at room temperature for 1 hour. Then, 50 g of water were added to wash the reaction liquid. The resulting organic layer was washed with 50 g of saturated sodium hydrogencarbonate, 50 g of saturated brine, and 50 g of water in sequence. Then, it was dried with magnesium sulfate, followed by distilling the solvent off, thereby obtaining 8.78 g of the target adamantane-1-ylmethyl bromodifluoroacetate (yield: 95%, purity: 100%).

reactant | 1-adamantane methanol | 31.8 mmol, 4.76 g, 1.11 equivalents | C12(CC3CC(CC(C1)C3)C2)CO | C11H18O
reactant | diethyl ether | 55 g | C(C)OCC | C4H10O
reactant | bromodifluoroacetic chloride | 28.6 mmol, 6.15 g, 1.0 equivalent | BrC(C(=O)Cl)(F)F | C2BrClF2O
reactant | triethylamine | 57.2 mmol, 5.78 g, 2.0 equivalents | C(C)N(CC)CC | C6H15N
solvent | water | 50 g | O | H2O
product | adamantane-1-ylmethyl bromodifluoroacetate | yield: 95% | BrC(C(=O)OCC12CC3CC(CC(C1)C3)C2)(F)F | C13H17BrF2O2
